US05258361
2,4-dichloro-4'-nitrodiphenyl ether;
2,4,6-trichloro-4'-nitrodiphenyl ether; 2,4-dichloro-6-fluoro-4'-nitrodiphenyl ether; 3-methyl-4'-nitrodiphenyl ether; 3,5-dimethyl-5'-nitrodiphenyl ether; 2,4'-dinitro-4-(trifluoromethyl)diphenyl ether; 2,4-dichloro-3'-methoxy-4'-nitrodiphenyl ether; sodium 5-(2-chloro-4-(trifluoromethyl)phenoxy)-2-nitrobenzoate; 2-chloro-1-(3-ethoxy-4-nitrophenoxy)-4-(trifluoromethyl)benzene; 1-(carboethoxy)ethyl 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate; 5-[2-chloro-4-(trifluoromethyl)phenoxyl]-N-(methylsulphonyl)-2-nitrobenzamide.

reactant | 2,4,6-trichloro-4'-nitrodiphenyl ether | C1=CC(=CC=C1[N+](=O)[O-])OC2=C(C=C(C=C2Cl)Cl)Cl | C12H6Cl3NO3
reactant | 2,4'-dinitro-4-(trifluoromethyl)diphenyl ether | C1=CC(=CC=C1[N+](=O)[O-])OC2=C(C=C(C=C2)C(F)(F)F)[N+](=O)[O-] | C13H7F3N2O5
reactant | sodium 5-(2-chloro-4-(trifluoromethyl)phenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)[O-])C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F.[Na+]
reactant | 2-chloro-1-(3-ethoxy-4-nitrophenoxy)-4-(trifluoromethyl)benzene | ClC1=C(C=CC(=C1)C(F)(F)F)OC1=CC(=C(C=C1)[N+](=O)[O-])OCC | C15H11ClF3NO4
reactant | 1-(carboethoxy)ethyl 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)OC(C)C(=O)OCC)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C19H15ClF3NO7
reactant | 5-[2-chloro-4-(trifluoromethyl)phenoxyl]-N-(methylsulphonyl)-2-nitrobenzamide | ClC1=C(OC=2C=CC(=C(C(=O)NS(=O)(=O)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C15H10ClF3N2O6S
product | 2,4-dichloro-4'-nitrodiphenyl ether | C1=CC(=CC=C1[N+](=O)[O-])OC2=C(C=C(C=C2)Cl)Cl | C12H7Cl2NO3
